US08445510B2
2,6-Dichloro-3-fluorobenzaldehyde
To a solution of 2,4-dichloro-1-fluorobenzene (100 g, 0.606 mol) in THF (1.4 L) under nitrogen at −78° C., was added a 2.5 M solution of n-BuLi in hexanes (267 mL, 0.666 mol) dropwise over a period of 30 min, maintaining the temperature between −70 to −78° C. After 1.5 h stirring at −78° C., methyl formate (72.6 mL, 1.21 mol) was added slowly, and the reaction mixture was stirred overnight, warming up to rt. The reaction was quenched with sat. aqueous NH4Cl (200 mL) and the organic layer was separated. The organic solvents were removed by distillation at atmosphere pressure and the crude material which contained a small amount of THF was crystallized from hexanes to give the title compound.

reactant | 2,4-dichloro-1-fluorobenzene | 0.606 mol, 100 g | ClC1=C(C=CC(=C1)Cl)F | C6H3Cl2F
reactant | n-BuLi | [Li]CCCC
reactant | methyl formate | 1.21 mol, 72.6 mL | C(=O)OC | C2H4O2
solvent | THF | 1.4 L | C1CCOC1 | C4H8O
product | 2,6-Dichloro-3-fluorobenzaldehyde | ClC1=C(C=O)C(=CC=C1F)Cl | C7H3Cl2FO
